US05756817
In a 250 mL flask equipped with magnetic stirrer, N-(t-butyloxycarbonyl)-o-fluorophenylalaninol (0.096 mole, 2.15 g) was dissolved in 200 ml of THF and was added with 1,1'-carbonyldiimidazole (0.010 mol, 1.62 g) at 0° C. The reaction mixture was stirred at room temperature for 2 hours, followed by the injection of ammonia at 0° C. for 30 min. Following elevating to room temperature, water was added to terminate the reaction. The organic layer was extracted 3 times with dichloromethane, dried over magnesium sulfate and distilled in vacuo, to give a solid. This was recrystalized in a solution mixture of n-hexane and diethyl ether, to produce 1.93 g of O-carbamoyl-N-(t-butyloxycarbonyl)-o-fluorophenylalaninol: Yield 75%.

reactant | N-(t-butyloxycarbonyl)-o-fluorophenylalaninol | 0.096 mole, 2.15 g | C(C)(C)(C)OC(=O)N[C@@H](CC1=C(C=CC=C1)F)CO | C14H20FNO3
reactant | 1,1'-carbonyldiimidazole | 0.010 mol, 1.62 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ammonia | N | H3N
reactant | water | O | H2O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | O-carbamoyl-N-(t-butyloxycarbonyl)-o-fluorophenylalaninol | 1.93 g, Yield 75% | C(N)(=O)OC[C@@H](NC(=O)OC(C)(C)C)CC1=C(C=CC=C1)F | C15H21FN2O4
